US08106099B2
3 ml (23.2 mmol) of 5-bromo-2-methoxypyridine were added at −70° C. to a solution of 10.2 ml of butyllithium (2.5 M solution in hexane; 25.5 mmol) in 50 ml of diethyl ether. After 10 min, 1.4 ml (19.5 mmol) of propionitrile were added. After 2 hours at −70° C., the reaction mixture was slowly allowed to come to room temperature. 2.2 g of sodium sulfate decahydrate were then added and allowed to stir for 1 hour. After subsequent addition of 5 g of magnesium sulfate, the salts were filtered off after stirring briefly and the filtrate was concentrated. The residue was dissolved in 70 ml of methanol and 1.1 g (28 mmol) of sodium borohydride were added at 0° C. After stirring overnight, the reaction mixture was adjusted to pH 2 using concentrated hydrochloric acid and concentrated on a rotary evaporator. The residue was treated with 10 ml of water, and extracted once with diethyl ether. The aqueous phase was then saturated with sodium hydrogencarbonate, concentrated in vacuo and the residue was extracted with ethyl acetate. After drying and concentrating the ethyl acetate extracts, 1.4 g of racemic 1-(6-methoxypyridin-3-yl)propylamine were obtained.

reactant | 5-bromo-2-methoxypyridine | 23.2 mmol, 3 ml | BrC=1C=CC(=NC1)OC | C6H6BrNO
reactant | butyllithium | 25.5 mmol, 2.5 M, 10.2 ml | C(CCC)[Li]
reactant | propionitrile | 19.5 mmol, 1.4 ml | C(CC)#N | C3H5N
reactant | sodium sulfate decahydrate | 2.2 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | magnesium sulfate | 5 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | sodium borohydride | 28 mmol, 1.1 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | diethyl ether | 50 ml | C(C)OCC | C4H10O
product | racemic 1-(6-methoxypyridin-3-yl)propylamine | 1.4 g | COC1=CC=C(C=N1)C(CC)N | C9H14N2O
